US05962458
A solution of 7-benzyloxy-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline (451 mg, 1.1 mmol) in TFA (4.5 ml) was heated at reflux for 3 hours. The mixture was diluted with toluene and the volatiles removed by evaporation. The residue was triturated with methylene chloride, collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline (320 mg, 90%).

reactant | 7-benzyloxy-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline | 1.1 mmol, 451 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)Cl)F)OC | C22H16ClFN2O3
solvent | TFA | 4.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chloro-2-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline | 320 mg, 90% | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H10ClFN2O3
